US09163017B2
(S)-1-tert-butyl 2-(2-(4-nitrophenyl)-2-oxoethyl) pyrrolidine-1,2-dicarboxylate
To a solution of BOC-L-Proline (0.485 g, 2.25 mmol) and 2-Bromo-4′-nitro acetophenone (0.500 g, 2.05 mmol) in acetonitrile (20 mL) was added diisopropylethylamine (0.39 mL, 2.25 mmol) dropwise at ambient temperature. After stirred for four hours, the solution was poured into brine and extracted into ethyl acetate, dried over sodium sulfate, filtered, and the filtrate was concentrated to give a crude material that was used without purification (100% yield).

reactant | BOC-L-Proline | 2.25 mmol, 0.485 g | C(=O)(OC(C)(C)C)N1[C@H](C(=O)O)CCC1 | C10H17NO4
reactant | 2-Bromo-4′-nitro acetophenone | 2.05 mmol, 0.500 g | BrCC(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C8H6BrNO3
reactant | diisopropylethylamine | 2.25 mmol, 0.39 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
solvent | brine | [Cl-].[Na+].O
product | (S)-1-tert-butyl 2-(2-(4-nitrophenyl)-2-oxoethyl) pyrrolidine-1,2-dicarboxylate | 100% yield | N1([C@@H](CCC1)C(=O)OCC(=O)C1=CC=C(C=C1)[N+](=O)[O-])C(=O)OC(C)(C)C | C18H22N2O7
